US05198449
1-(3-Phenoxypropyl)-3-(3-trifluoromethylbenzoyl)pyrroldine
Following the procedure of Preparation 9, the title compound is prepared from 3-(3-trifluoromethylbenzoyl)pyrroldine (U.S. Pat. No. 3,489,769) and 3-phenoxypropyl bromide.

reactant | 3-(3-trifluoromethylbenzoyl)pyrroldine | FC(C=1C=C(C(=O)C2CNCC2)C=CC1)(F)F | C12H12F3NO
reactant | 3-phenoxypropyl bromide | O(C1=CC=CC=C1)CCCBr | C9H11BrO
product | 1-(3-Phenoxypropyl)-3-(3-trifluoromethylbenzoyl)pyrroldine | O(C1=CC=CC=C1)CCCN1CC(CC1)C(C1=CC(=CC=C1)C(F)(F)F)=O | C21H22F3NO2
